US04372953
5-Mercapto-1,2,3,4-tetrazole (1 g), potassium carbonate (2 g) and β-chloroacetone (1.4 g) are added to acetone (50 ml) and the solution is refluxed with stirring for 2 hours. The reaction mixture is concentrated to dryness under reduced pressure and the residue is dissolved in chloroform. Insolubles are filtered off and the filtrate is concentrated under reduced pressure. The residue is purified by silica gel column chromatography (Kieselgel 60, eluant: benzene-ether (10:1) to obtain 5-acetylmethylthio-1,2,3,4-tetrazole (0.4 g) as colorless liquid.

reactant | 5-Mercapto-1,2,3,4-tetrazole | 1 g | SC1=NN=NN1 | CH2N4S
reactant | potassium carbonate | 2 g | C([O-])([O-])=O.[K+].[K+]
reactant | acetone | 50 ml | CC(=O)C | C3H6O
product | 5-acetylmethylthio-1,2,3,4-tetrazole | 0.4 g | C(C)(=O)CSC1=NN=NN1 | C4H6N4OS
